US04066635
c. t-butyloxycarbonyl-L-prolyl-β-alaninamide
A solution of 11 g of t-butyloxycarbonyl-L-prolyl-β-alanine methyl ester in 80 ml of methanol was saturated with ammonia gas at 0° C and stored for 2 days at room temperature. The solution was concentrated in vacuo and the residue crystallised from methanol/water. Yield: 9.8 g; melting point 175°-4 177° C; [α]D25 = -44.5° (c = 1 in dimethylformamide).

reactant | t-butyloxycarbonyl-L-prolyl-β-alanine methyl ester | 11 g | COC(CCNC([C@H]1N(CCC1)C(=O)OC(C)(C)C)=O)=O | C14H24N2O5
reactant | ammonia | N | H3N
solvent | methanol | 80 ml | CO | CH4O
product | t-butyloxycarbonyl-L-prolyl-β-alaninamide | C(C)(C)(C)OC(=O)N1[C@H](C(=O)NCCC(=O)N)CCC1 | C13H23N3O4
